US07524845B2
To a suspension of 2-chloro-3-[(2-thiazolyl)carbonyl]pyridine (257.5 mg, 1.2 mmol, 1 equiv) in dioxane (3 mL) in a sealed tube was added hydrazine (2 mL). The mixture was heated at 150° C. overnight, cooled to room temperature and concentrated in vacuo to provide a crude residue. The resultant residue was diluted with dichloromethane (300 mL), washed with water (50 mL) and brine (50 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide 3-thiazol-2-yl-1H-pyrazolo[3,4-b]pyridine (212.3 mg) as a yellow powder which used without further purification: LCMS (ES) M+H 203.5, Rf 2.68 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | 2-chloro-3-[(2-thiazolyl)carbonyl]pyridine | 1.2 mmol, 257.5 mg, 1 equiv | ClC1=NC=CC=C1C(=O)C=1SC=CN1 | C9H5ClN2OS
reactant | hydrazine | 2 mL | NN | H4N2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-thiazol-2-yl-1H-pyrazolo[3,4-b]pyridine | 212.3 mg | S1C(=NC=C1)C1=NNC2=NC=CC=C21 | C9H6N4S
